US06087357
To a solution of (2R)-4-[4,4-ethylenedioxy-4-(4-fluorophenyl)butyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (210 mg) in ethyl acetate was added 4N hydrogen chloride in ethyl acetate solution (0.5 ml) and the whole was stirred at room temperature for 23 hours. The solution was evaporated in vacuo. The residue was triturated with a mixture of ethyl acetate and diisopropyl ether to give (2R)-4-[4-(4-fluorophenyl)-4-oxobutyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine hydrochloride (183.7 mg).

reactant | (2R)-4-[4,4-ethylenedioxy-4-(4-fluorophenyl)butyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 210 mg | C1OC(CCCN2C[C@H](N(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)CC2=CNC3=CC=CC=C23)(C2=CC=C(C=C2)F)OC1 | C34H32F7N3O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-4-[4-(4-fluorophenyl)-4-oxobutyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine hydrochloride | 183.7 mg | Cl.FC1=CC=C(C=C1)C(CCCN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12)=O | InChI=1S/C32H28F7N3O2.ClH/c33-25-9-7-20(8-10-25)29(43)6-3-11-41-12-13-42(26(19-41)16-22-18-40-28-5-2-1-4-27(22)28)30(44)21-14-23(31(34,35)36)17-24(15-21)32(37,38)39;/h1-2,4-5,7-10,14-15,17-18,26,40H,3,6,11-13,16,19H2;1H/t26-;/m1./s1
